US04898949
5,5-Bis(4-fluorophenyl)-4-(1-methyl-1H-tetrazol-5-yl)-2,4-pentadienal
A solution of 3,3-bis(4-fluorophenyl)-2-(1-methyl-1H-tetrazol-5-yl)propenal (1.0 g, 3.07 mmoles) and triphenylphosphoranylidene acetaldehyde (0.93 g, 3.07 mmoles) in benzene was heated at reflux for 1 hour. The benzene was removed in vacuo and the residue was purified by column chromatography on silica gel eluting with 15% (v/v) ethyl acetate in hexane to give 0.7 g of the title compound; m.p.=156°-157.5° C.

reactant | 3,3-bis(4-fluorophenyl)-2-(1-methyl-1H-tetrazol-5-yl)propenal | 3.07 mmoles, 1.0 g | FC1=CC=C(C=C1)C(=C(C=O)C1=NN=NN1C)C1=CC=C(C=C1)F | C17H12F2N4O
reactant | triphenylphosphoranylidene acetaldehyde | 3.07 mmoles, 0.93 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC=O | C20H17OP
reactant | benzene | C1=CC=CC=C1 | C6H6
product | 5,5-Bis(4-fluorophenyl)-4-(1-methyl-1H-tetrazol-5-yl)-2,4-pentadienal | 0.7 g | FC1=CC=C(C=C1)C(=C(C=CC=O)C1=NN=NN1C)C1=CC=C(C=C1)F | C19H14F2N4O
